US05476661
Synthesis of N-(2,3-dihydroxypropyl)-N-(hexadecyl)-2-hydroxyoctanamide (Neoceramide of Formula H)
N-(2,3-dihydroxypropyl)-hexadecylamine (1.0 g, 3.2 mmoles) and potassium hydroxide (0.01 g, 0.18 mmoles) were heated to 85° C. under vacuum and methyl-2-hydroxyoctanoate (0.55 g, 3.2 mmoles) was added dropwise to the reaction. The reaction was heated under vacuum for 6 hours. A waxy off white solid was obtained (crude yield=1,39 g), and the waxy solid further purified by recrystallization in hot hexane. (Yield=0.88g).

reactant | N-(2,3-dihydroxypropyl)-hexadecylamine | 3.2 mmoles, 1.0 g | OC(CNCCCCCCCCCCCCCCCC)CO | C19H41NO2
reactant | potassium hydroxide | 0.18 mmoles, 0.01 g | [OH-].[K+]
reactant | methyl-2-hydroxyoctanoate | 3.2 mmoles, 0.55 g | COC(C(CCCCCC)O)=O | C9H18O3
product | N-(2,3-dihydroxypropyl)-N-(hexadecyl)-2-hydroxyoctanamide | OC(CN(C(C(CCCCCC)O)=O)CCCCCCCCCCCCCCCC)CO | C27H55NO4
